US08084489B2
A mixture of (±)-5-(1-hydroxy-ethyl)-thiophene-2-carboxylic acid ethyl ester (0.402 g, 2.01 mmol), 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol (0.593 g, 2.23 mmol), and PPh3 (0.798 g, 3.04 mmol) is dissolved in toluene (20 mL) and treated with 1,1′-(azodicarbonyl)dipiperidine (ADDP, 0.763 g, 3.02 mmol) and stirred overnight at rt. The mixture is diluted with MeOH until homogeneous and concentrated. The residue is loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 40% giving (±)-5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid ethyl ester (0.638 g, 71%) as a clear syrup. MS (ES): 447.3 [M−H]−.

reactant | (±)-5-(1-hydroxy-ethyl)-thiophene-2-carboxylic acid ethyl ester | 2.01 mmol, 0.402 g | C(C)OC(=O)C=1SC(=CC1)C(C)O | C9H12O3S
reactant | 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol | 2.23 mmol, 0.593 g | CC1=C(C(=CC(=C1)O)C)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
reactant | PPh3 | 3.04 mmol, 0.798 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.02 mmol, 0.763 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | (±)-5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid ethyl ester | 0.638 g, 71% | C(C)OC(=O)C=1SC(=CC1)C(C)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C | C24H23F3O3S
